US07432287B2
After adding 178 mg (0.71 mmol) of 5-bromo-2-ethanesulfonylpyridine and 232 mg (0.71 mmol) of cesium carbonate to a solution of 100 mg (0.47 mmol) of 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester in N,N-dimethylformamide (1.0 ml), the mixture was stirred at 100° C. for 2.5 hours under a nitrogen atmosphere. Acetic acid ethyl ester and aqueous ammonium chloride were added to the reaction mixture, the aqueous layer was extracted with acetic acid ethyl ester, and then the organic layer was washed with brine, dried and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:acetic acid ethyl ester=1:1) to obtain 165 mg of 3-(6-ethanesulfonyl-pyridin-3-yloxy)-5-methoxymethoxybenzoic acid methyl ester (yield: 91%) as a colorless oil.

reactant | 5-bromo-2-ethanesulfonylpyridine | 0.71 mmol, 178 mg | BrC=1C=CC(=NC1)S(=O)(=O)CC | C7H8BrNO2S
reactant | cesium carbonate | 0.71 mmol, 232 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester | 0.47 mmol, 100 mg | COC(C1=CC(=CC(=C1)O)OCOC)=O | C10H12O5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
solvent | Acetic acid ethyl ester | C(C)OC(C)=O | C4H8O2
product | 3-(6-ethanesulfonyl-pyridin-3-yloxy)-5-methoxymethoxybenzoic acid methyl ester | 165 mg, yield: 91% | COC(C1=CC(=CC(=C1)OCOC)OC=1C=NC(=CC1)S(=O)(=O)CC)=O | C17H19NO7S
